US03997572
1,2,3,6-Tetrahydrophthalimide is converted to the potassium salt and reacted with 1-(2-hydroxyethyl)-2-methyl-5-nitroimidazole tosylate according to the procedure described in Example 13. The crude reaction mixture obtained is concentrated and the concentrate distributed between water and toluene. The toluene layer is separated and the solvent is evaporated to leave a residue which is recrystallized from 2-propanol, affording N-[2-(2-methyl-5-nitro-1-imidazolyl)ethyl]-1,2,3,6-tetrahydrophthalimide melting at about 118°-123° C.

reactant | 1,2,3,6-Tetrahydrophthalimide | C1(C2C(C(N1)=O)CC=CC2)=O | C8H9NO2
reactant | potassium | [K] | K
reactant | 1-(2-hydroxyethyl)-2-methyl-5-nitroimidazole tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.OCCN1C(=NC=C1[N+](=O)[O-])C
product | N-[2-(2-methyl-5-nitro-1-imidazolyl)ethyl]-1,2,3,6-tetrahydrophthalimide | CC=1N(C(=CN1)[N+](=O)[O-])CCN1C(C2C(C1=O)CC=CC2)=O | C14H16N4O4
